US07598412B2
Quinoline-2-carboxylic acid [1-(3,4-dimethoxy-phenyl)-cyclopentylmethyl ]-amide
Quinoline-2-carboxylic acid (0.502 g, 2.90 mmol) and C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine (0.678 g, 2.90 mmol) were dissolved in acetonitrile (20 mL) containing triethylamine (894 μL, 6.38 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.54 g, 4.06 mmol) was added and the solution was allowed to stir for 16 hours. The reaction mixture was evaporated to dryness and purified by column chromatography on silica gel using a gradient of 0-40% ethyl acetate in hexanes. The pure fractions were combined and evaporated to dryness to yield a white solid (0.426 g, 1.09 mmol, 37.7%). ESI-MS m/z calc. 390.2, found 391.2 (M+1)+. Retention time of 3.94 minutes. 1H NMR (400 MHz, CD3CN) δ 1.69-2.15 (m, 8H), 3.62 (d, J=30.1 Hz, 2H), 3.77 (s, 3H), 3.90 (s, 3H), 6.91-7.03 (m, 3H), 7.69 (t, J=8.1 Hz, 1H), 7.83 (t, J=7.7 Hz, 1H), 7.99 (t, J=8.8 Hz, 2H), 8.08 (s, 1H), 8.18 (d, J=8.5 Hz, 1H), 8.44 (d, J=8.5 Hz, 1H)

reactant | Quinoline-2-carboxylic acid | 2.90 mmol, 0.502 g | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine | 2.90 mmol, 0.678 g | COC=1C=C(C=CC1OC)C1(CCCC1)CN | C14H21NO2
reactant | triethylamine | 6.38 mmol, 894 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 4.06 mmol, 1.54 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Quinoline-2-carboxylic acid [1-(3,4-dimethoxy-phenyl)-cyclopentylmethyl ]-amide | 1.09 mmol, 0.426 g, 37.7% | COC=1C=C(C=CC1OC)C1(CCCC1)CNC(=O)C1=NC2=CC=CC=C2C=C1 | C24H26N2O3
